reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]1[C:5]([C:4]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[O:6]1)([H:11])[H:12])([H:8])([H:9])[H:10],110.702359938661
[C:1]([C:2]([N:3]1[C@:5]([C:4]([H:12])([H:13])[H:14])([H:15])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],51.0521688706565
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C-:4]=[N+:5]=[C:6]([H:13])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:14],79.7146312018
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:6]([C:5](=[O:7])[H:15])([H:16])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],82.66595812470231
[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[H:10])[N+:4](=[C-:5][O:6][H:12])[H:11])([H:7])([H:8])[H:9],71.47422225780159
[N:1]([C:2]([O:3][C:5]#[C:6][H:11])=[C:4]([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],47.2259604545254
[C:4](=[C:5]=[C:6]([H:8])[H:14])([H:12])[H:13].[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],43.7634605689182
[N:1]([C:2](=[C:3]=[N+:4]=[N-:5])[O:6][H:9])([H:7])[H:8]>>[N:1]([C:2]([C:3](=[N+:4]=[N-:5])[H:9])=[O:6])([H:7])[H:8],23.992563052273198
[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])([H:11])[H:13]>>[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],15.306415200171884
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:12])[O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C@:6]1([O:7][H:11])[H:17])([H:8])([H:9])[H:10],84.31996578990909
[C:1]1([H:9])([H:10])[N:2]([H:11])[C@:3]12[N-:4][N+:5]([H:8])([H:12])[C:6]([H:13])=[C:7]2[H:14]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],30.963495396771407
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([N:3]([C:4]([N+:6]#[C-:5])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],46.7714896313376
[C:1](=[C:2]=[C:3]=[C:4]([O:5][H:9])[N:6]([H:10])[H:11])([H:7])[H:8]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],22.237447842132205
[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3]([O:4][H:10])=[C:5](\[N:6]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9],71.56191651546601
[N:1]1([H:8])/[C:2](=[C:7](/[C:6](=[O:5])[H:9])[H:10])[N:4]=[N:3]1>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],22.6959036515417
[O:1]1[C@:2]2([H:7])[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]1=[N:6]2>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],1.4211876534947123
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C-:4]=[C:5]([H:14])[C:7]([H:15])=[C+:6]1)([H:8])([H:9])[H:10],79.24204121833071
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C@@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])[H:12])([H:9])[H:10].[H:8][H:11],116.209051203065
[O:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7].[O:4]=[C:5]=[O:6]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],105.8639759706346
[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7],20.32373907857439
[C:1](=[O:2])([H:8])[H:9].[c:3]1([H:10])[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13]>>[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],105.98628257005487
[N:1](=[C:2]1/[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C-:6]=[N+:7]1[H:9])\[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],67.87261394100472
[C:1](=[C:2]([O:3][H:5])[H:7])([H:4])[H:6]>>[C:1]([C:2](=[O:3])[H:7])([H:4])([H:5])[H:6],55.00279624749011
[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C:1]([H:6])([H:7])([H:8])[H:13].[C:2](=[O:3])([C:4]([O:5][H:10])([H:11])[H:12])[H:9],78.25389607162829
[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:5]=[C:6]([H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],73.91262292311609
